US08835449B2
2-(6-(2-(2-Hydroxyethoxy)phenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamide
To a solution of (Z)-ethyl 3-((2-amino-2-oxoethyl)amino)-3-(2-(2-hydroxyethoxy)phenyl)acrylate (1.0 g, 3.25 mmol) in tetrahydrofuran (15 mL) was added trimethylsilyl isothiocyanate (1.7 g, 12.9 mmol), and the mixture was stirred at 80° C. for 18 hours. The reaction mixture was cooled to room temperature, poured into a flask containing water and extracted with CH2Cl2 (3×100 mL). The combined organic layers were dried and concentrated under reduced pressure to give a yellow solid, which was purified by flash chromatography (2-5% MeOH:CH2Cl2) to give the title compound (330 mg, 31.7%) as a yellow solid.

reactant | (Z)-ethyl 3-((2-amino-2-oxoethyl)amino)-3-(2-(2-hydroxyethoxy)phenyl)acrylate | 3.25 mmol, 1.0 g | NC(CN\C(=C/C(=O)OCC)\C1=C(C=CC=C1)OCCO)=O | C15H20N2O5
reactant | trimethylsilyl isothiocyanate | 12.9 mmol, 1.7 g | C[Si](C)(C)N=C=S | C4H9NSSi
reactant | water | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(6-(2-(2-Hydroxyethoxy)phenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamide | 330 mg, 31.7% | OCCOC1=C(C=CC=C1)C1=CC(NC(N1CC(=O)N)=S)=O | C14H15N3O4S
